US08022206B2
7-[1-(2,6-Dichlorophenyl)propoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine
General procedure AA: To a mixture of 4-[4-(7-hydroxy-6-nitrofuro[3,2-c]pyridine-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (20.0 mg, 0.047 mmol), 1-(2,6-dichlorophenyl)propan-1-ol (28.6 mg, 0.14 mmol), triphenylphosphine (24.4 mg, 0.093 mmol) and THF (2 mL) at rt was added diisopropyl azodicarboxylate (37.7 mg, 0.186 mmol) dropwise, and the solution was flushed with nitrogen and heated to 50° C. for 4 h. The solvents were removed in vacuo, and the material was redissolved in EtOH (3 mL). Iron powder (30 mg, 0.5 mmol) and 5 drops of conc. HCl were added, and the solution was refluxed for 30 min. The solution was directly passed through a SCX cartridge, washed with MeOH and ejected with 2M NH3 in MeOH. The crude product was concentrated in vacuo, redissolved MeOH (1 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.06 (t, J=7.5 Hz, 3H), 1.93-2.05 (m, 2H), 2.09-2.17 (m, 2H), 2.33 (dt, J=13.7, 7.5 Hz, 1H), 2.48 (dd, J=14.3, 6.9 Hz, 1H), 2.78 (td, J=12.7, 2.7 Hz, 2H), 3.16-3.24 (m, 2H), 4.35 (tt, J=11.7, 4.1 Hz, 1H), 6.43 (t, J=7.5 Hz, 1H), 7.20-7.26 (m, 1H), 7.36 (d, J=8.1 Hz, 2H), 7.80 (s, 1H), 7.83 (s, 1H), 8.09 (s, 1H), 8.13 (s, 1H). MS (ES+): m/z 498.06/500.05 (100/72) [MH+]. HPLC: tR=2.65 min (ZQ3, polar—5 min).

reactant | 4-[4-(7-hydroxy-6-nitrofuro[3,2-c]pyridine-3-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.047 mmol, 20.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=COC2=C1C=NC(=C2O)[N+](=O)[O-] | C20H23N5O6
reactant | 1-(2,6-dichlorophenyl)propan-1-ol | 0.14 mmol, 28.6 mg | ClC1=C(C(=CC=C1)Cl)C(CC)O | C9H10Cl2O
reactant | triphenylphosphine | 0.093 mmol, 24.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.186 mmol, 37.7 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
catalyst | HCl | 5 drops | Cl | ClH
catalyst | Iron | 0.5 mmol, 30 mg | [Fe] | Fe
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-[1-(2,6-Dichlorophenyl)propoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1)Cl)C(CC)OC=1C2=C(C=NC1N)C(=CO2)C=2C=NN(C2)C2CCNCC2 | C24H25Cl2N5O2
